US06344459B1
A solution of 2-chloro-3-nitrobenzamide (1.02 g, 4.9 mmol) in P2O5/(TMS)2O/1,2-dichloroethane (30 mL) was heated at 85° C. for 18 hours. After it was cooled to 25° C., the solution was filtered through a plug of silica gel (60 mL), eluting with 5% methanol/CHCl3 (400 mL). The combined washes were concentrated under reduced pressure to give 2-chloro-3-nitrobenzonitrile as an off-white solid (0.66 g, 74%).

reactant | 2-chloro-3-nitrobenzamide | 4.9 mmol, 1.02 g | ClC1=C(C(=O)N)C=CC=C1[N+](=O)[O-] | C7H5ClN2O3
solvent | P2O5 (TMS)2O 1,2-dichloroethane | 30 mL | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3.O([Si](C)(C)C)[Si](C)(C)C.ClCCCl
product | 2-chloro-3-nitrobenzonitrile | 0.66 g, 74% | ClC1=C(C#N)C=CC=C1[N+](=O)[O-] | C7H3ClN2O2
